US07855211B2
6-Bromo-4-fluoro-1-isopropyl-2-methyl-1H-benzoimidazole
Add potassium tert-butoxide (811.43 mg) to a solution of N-(4-bromo-2,6-difluoro-phenyl)-N′-isopropyl-acetamidine (2 g) in N-methyl formamide (20 mL). Heat the mixture at 100° C. for 2 h. Cool to RT, add DCM (150 mL), wash three times with saturated sodium chloride aqueous (brine, 300 mL), dry over magnesium sulfate and remove the solvent under vacuum. Add hexane and shake over ultrasound for a few minutes. Filter the solid, repeat addition of hexane/filtration twice to afford 1.86 g of the title compound. MS (ES+): m/z=272 (M+H)+.

reactant | potassium tert-butoxide | 811.43 mg | CC(C)([O-])C.[K+]
reactant | N-(4-bromo-2,6-difluoro-phenyl)-N′-isopropyl-acetamidine | 2 g | BrC1=CC(=C(C(=C1)F)NC(C)=NC(C)C)F | C11H13BrF2N2
reactant | DCM | 150 mL | C(Cl)Cl | CH2Cl2
solvent | N-methyl formamide | 20 mL | CNC=O | C2H5NO
product | 6-Bromo-4-fluoro-1-isopropyl-2-methyl-1H-benzoimidazole | 1.86 g | BrC=1C=C(C2=C(N(C(=N2)C)C(C)C)C1)F | C11H12BrFN2
